US09102688B2
General Procedure 43: Dimethyl-[(E)-2-(8-nitro-quinolin-7-yl)-vinyl]-amine (Intermediate 203)
A solution of 7-methyl-8-nitroquinoline (6 g, 31.9 mmol) and 1,1-dimethoxy-N,N-dimethylmethanamine (4.27 ml, 31.9 mmol) in DMF (15 ml) was heated at 140° C., under nitrogen, for 16 h. After cooling to room temperature, water (15 ml) was added and the resulting precipitate was collected by filtration, washed with EtOAc and dried to give the title compound (4.4 g, 57%). The compound could not be detected by HPLCMS therefore structure was confirmed by 1H NMR.

reactant | 7-methyl-8-nitroquinoline | 31.9 mmol, 6 g | CC1=CC=C2C=CC=NC2=C1[N+](=O)[O-] | C10H8N2O2
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 31.9 mmol, 4.27 ml | COC(N(C)C)OC | C5H13NO2
reactant | water | 15 ml | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | Dimethyl-[(E)-2-(8-nitro-quinolin-7-yl)-vinyl]-amine | 4.4 g, 57% | CN(\C=C\C1=CC=C2C=CC=NC2=C1[N+](=O)[O-])C | C13H13N3O2
